US04783461
6-(Chloromethyl)-3-(4-methoxyphenyl)-1,2,4-triazolo[3,4-a]phthalazine (3 g) and pyrrolidine (30 ml) are heated at 100° C. for 8 h in autoclave. The amine excess is removed, the residue is washed with a small amount of water and crystallized from ethyl acetate, yielding 3-(4-methoxyphenyl)-6-[1-pyrrolidinyl)methyl]-1,2,4-triazolo[3,4-a]phthalazine (1.7 g). M.p. 184°-186° C.

reactant | 6-(Chloromethyl)-3-(4-methoxyphenyl)-1,2,4-triazolo[3,4-a]phthalazine | 3 g | ClCC1=NN2C(C3=CC=CC=C13)=NN=C2C2=CC=C(C=C2)OC | C17H13ClN4O
solvent | pyrrolidine | 30 ml | N1CCCC1 | C4H9N
product | 1,2,4-triazolo[3,4-a]phthalazine | 1.7 g | N=1N=CN2C1C1=CC=CC=C1C=N2 | C9H6N4
